US07728022B2
A solution of 2-cyclohexen-1-one (20 g, 0.208 mmol) in tetrahydrofuran (250 ml) was added to a preformed lithium diisopropylamide solution (prepared from diisopropylamine (31 ml) and n-butyllithium (140 ml, 1.6M solution) at −70° C.) over 20 minutes and stirred for a further 20 minutes. Ethyl bromoacetate (25 ml, 0.228 mmol) was added dropwise and the reaction stirred for 1 hour warming to room temperature. The reaction was quenched with 6N HCl (200 ml) and the product extracted into ether (3×300 ml). Combined organic phase washed with saturated sodium chloride, dried over magnesium sulfate and evaporated to dryness. The crude oil was purified by silica chromatography eluting with hexane-ethyl acetate mixtures (10-20%), to give ethyl (2-oxo-cyclohex-3-enyl)acetate as a colourless oil, 11.8 g. 1H NMR δ (ppm) (CDCl3): 6.98-6.94 (1H, m), 6.03-6.00 (1H, m), 4.19-4.11 (2H, m), 2.92-2.82 (2H, m), 2.49-2.41 (2H, m), 2.30-2.23 (1H, m), 2.16-2.11 (1H, m), 1.87-1.77 (1H, m) and 1.28-1.24 (3H, m).

reactant | 2-cyclohexen-1-one | 0.208 mmol, 20 g | C1(C=CCCC1)=O | C6H8O
reactant | lithium diisopropylamide | 1.6M, 31 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Ethyl bromoacetate | 0.228 mmol, 25 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | ethyl (2-oxo-cyclohex-3-enyl)acetate | O=C1C(CCC=C1)CC(=O)OCC | C10H14O3
